US07582775B2
E. 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid ethyl ester
5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-2-carboxylic acid ethyl ester (5.97 g, 15.6 mmol), 1-bromopinacolone (4.20 g, 23.4 mmol), and K2CO3 (6.46 g, 46.8 mmol) in acetone (100 mL) are reacted analogous to Example 1D to provide the title compound (7.10 g, 95%).

reactant | 5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-2-carboxylic acid ethyl ester | 15.6 mmol, 5.97 g | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)C(CC)(C2=CC(=C(C=C2)O)C)CC | C23H26O3S
reactant | 1-bromopinacolone | 23.4 mmol, 4.20 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | K2CO3 | 46.8 mmol, 6.46 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid ethyl ester | 7.10 g, 95% | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C | C29H36O4S
